US04883815
16.0 g of 85 percent m-chloroperbenzoic acid in 205 ml of chloroform are added at 0° to 5° to a solution of 8.50 g of 4-acetyl-10-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline in 205 ml of chloroform. After stirring at room temperature for 4 hours, the mixture is treated with 4 g of potassium iodide and 70 ml of water and with sodium thiosulfate until decolorization occurs. The chloroform phase is washed with 70 ml of 2N sodium hydroxide solution and twice with 170 ml of water and evaporated in a vacuum. Chromatography on 100 g of silica gel with methylene chloride yields 4-acetyl-9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione with a melting point of 115°-116° after recrystallization from isopropyl ether.

reactant | m-chloroperbenzoic acid | 16.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-acetyl-10-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 8.50 g | C(C)(=O)N1CCCC=2C3=C(CCC12)C=CC=C3Cl | C15H16ClNO
reactant | potassium iodide | 4 g | [I-].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroform | 205 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 205 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 70 ml | O | H2O
product | 4-acetyl-9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | C(C)(=O)N1C(CCC2=C(C(CCC1)=O)C(=CC=C2)Cl)=O | C15H16ClNO3
